US07482350B2
Step 4. Preparation of 1-[2-(2,6-diethylphenyl)-6-methyl-5-({methyl[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}methyl)pyrimidin-4-yl]piperidin-4-one
To a flask containing [2-(2,6-diethyl-phenyl)-4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-6-methyl-pyrimidin-5-ylmethyl]-methyl-(1S)-(1,2,3,4-tetrahydro-naphthalen-1-yl)amine (80 mg, 0.148 mmol) is added HCl (3 M, 20 mL) and the reaction is heated at 60° C. for 4 h. Once cool, the reaction is basified with NaOH (1 N, 100 mL)) and EtOAc (100 mL) is added to extract the product. The organic layer is washed with water (100 mL), brine (100 mL) and dried over Na2SO4. Filtration, concentration and vacuum drying yields the title compound as a colorless gum. [mass expected (496.69); mass found (496.32)].

reactant | [2-(2,6-diethyl-phenyl)-4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-6-methyl-pyrimidin-5-ylmethyl]-methyl-(1S)-(1,2,3,4-tetrahydro-naphthalen-1-yl)amine | 0.148 mmol, 80 mg | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)N1CCC2(OCCO2)CC1)CN([C@H]1CCCC2=CC=CC=C12)C)C | C34H44N4O2
reactant | HCl | 3 M, 20 mL | Cl | ClH
reactant | NaOH | 1 N, 100 mL | [OH-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-[2-(2,6-diethylphenyl)-6-methyl-5-({methyl[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}methyl)pyrimidin-4-yl]piperidin-4-one | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)N1CCC(CC1)=O)CN([C@H]1CCCC2=CC=CC=C12)C)C | C32H40N4O
